US09085534B2
3-[(biphenyl-4-ylmethyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 36% yield from 4-phenylbenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.55 (br s, 1H), 8.17 (s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.71 (m, 4H), 7.58 (d, 1H, J=5.0 Hz), 7.32-7.48 (m, 5H), 4.62 (s, 2H). [M+H] calc'd for C19H16N2O2, 305; found 305.

reactant | 4-phenylbenzylamine | C1(=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(biphenyl-4-ylmethyl)amino]pyridine-4-carboxylic acid | 36% yield | C1(=CC=C(C=C1)CNC=1C=NC=CC1C(=O)O)C1=CC=CC=C1 | C19H16N2O2
